US08110687B2
To a solution of give methyl 3-(aminocarbonyl)-5-tert-butylbenzoate (11.8 g, 0.0451 mol) in THF (88) was added pyridine (5.5 mL, 0.068 mol) and TFAA (9.6 mL, 0.068 mol). The reaction mixture was allowed to stir at rt for 3 h and then quenched by the addition of aq sat NaHCO3 and brine. The mixture was extracted with EtOAc. The organic solutions were combined and washed with sodium bicarbonate, brine, 1M HCl, water and brine. The solution was dried over MgSO4, filtered, and concentrated to give methyl 3tert-butyl-5-cyanobenzoate (9.5 g, 70% pure, 68%). 1H NMR (400 MHz, d6-DMSO) δ: 8.77 (s, 1H), 8.48 (s, 1H), 8.19 (m, 1H), 8.17 (m, 1H), 8.15 (1, m), 3.88 (s, 3H), and 1.31 (s, 9H). LCMS: ES+ 218.2

reactant | methyl 3-(aminocarbonyl)-5-tert-butylbenzoate | 0.0451 mol, 11.8 g | NC(=O)C=1C=C(C(=O)OC)C=C(C1)C(C)(C)C | C13H17NO3
reactant | pyridine | 0.068 mol, 5.5 mL | N1=CC=CC=C1 | C5H5N
reactant | TFAA | 0.068 mol, 9.6 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | THF | C1CCOC1 | C4H8O
product | methyl 3tert-butyl-5-cyanobenzoate | 9.5 g | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1)C#N | C13H15NO2
